US09227985B2
tert-Butyl 4-[(4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]-3,6-dihydropyridine-1(2H)-carboxylate
(4S)-2-Chloro-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine (80 mg, 0.2 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridine-1(2H)-carboxylate (100 mg, 0.4 mmol) [Aldrich, cat. #CDS015890], and potassium phosphate (0.09 g, 0.4 mmol) [Aldrich, cat. #P5629] were suspended in 1,4-dioxane (3 mL) and water (0.70 mL). The resulting mixture was degassed with nitrogen for 10 min and dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine-(2′-aminobiphenyl-2-yl)(chloro)palladium (1:1) (0.008 g, 0.01 mmol) [Aldrich, cat. #741825] was added, followed by an additional 10 min of degassing. The reaction mixture was sealed and heated at 50° C. for 16 h. After cooling to room temperature, the reaction mixture was extracted with dichloromethane. The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography eluting ethyl acetate in hexanes (75-100%) to afford the desired product (98 mg, 90%). LCMS for C29H32O4N5 (M+H)+: calculated m/z=514.2. found 514.2; 1H NMR (300 MHz, CD3OD) δ 8.54 (d, J=4.7 Hz, 1H), 7.72 (m, 2H), 7.44-7.27 (m, 2H), 7.10 (d, J=8.4 Hz, 1H), 6.75 (d, J=8.1 Hz, 1H), 6.14 (s, 1H), 6.07 (d, J=2.8 Hz, 1H), 4.78 (dd, J=11.6, 2.9 Hz, 1H), 4.59 (dd, J=11.6, 3.1 Hz, 1H), 4.11-3.72 (m, 2H), 3.51 (d, J=16.0 Hz, 2H), 2.60 (s, 2H), 2.25 (s, 3H), 2.10 (s, 3H), 1.42 (s, 9H).

reactant | (4S)-2-Chloro-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | 0.2 mmol, 80 mg | ClC1=NC2=CC=C(C3=C2N1[C@H](CO3)C3=NC=CC=C3)C=3C(=NOC3C)C | C19H15ClN4O2
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridine-1(2H)-carboxylate | 0.4 mmol, 100 mg | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | potassium phosphate | 0.4 mmol, 0.09 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.70 mL | O | H2O
catalyst | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (2′-aminobiphenyl-2-yl)(chloro)palladium | 0.01 mmol, 0.008 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1.NC1=C(C=CC=C1)C1=C(C=CC=C1)[Pd]Cl
product | tert-Butyl 4-[(4S)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2-yl]-3,6-dihydropyridine-1(2H)-carboxylate | 98 mg, 90% | CC1=NOC(=C1C1=CC=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(=N2)C=2CCN(CC2)C(=O)OC(C)(C)C)C | C29H31N5O4
